US06482852B2
(f) 2-Acetyl-7,8-dihydro-6H-5-oxa-9-thia-benzocycloheptene-4-carboxylic acid amide
The 5-acetyl-3-(3-chloro-propylsulfanyl)-2-hydroxy-benzamide (2.87 g, 10 mmol) was dissolved in 8 mL dry DMF. Solid Cs2CO3 (4.93 g, 15.1 mmol) was added, followed by catalytic amounts of KI (0.1 g). The suspension was warmed to 70° C. under nitrogen and was stirred for 72 h. After cooling, it was diluted with ethyl acetate and enough 4 N HCl to make the pH about 2. The aqueous layer was extracted with more ethyl acetate. The combined organic layers were washed with water and brine. Drying over Na2SO4 and concentration yielded the product as a solid (1 g, 40%).

reactant | 5-acetyl-3-(3-chloro-propylsulfanyl)-2-hydroxy-benzamide | 10 mmol, 2.87 g | C(C)(=O)C=1C=C(C(=C(C(=O)N)C1)O)SCCCCl | C12H14ClNO3S
reactant | Cs2CO3 | 15.1 mmol, 4.93 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 4 N | Cl | ClH
product | 2-Acetyl-7,8-dihydro-6H-5-oxa-9-thia-benzocycloheptene-4-carboxylic acid amide | 1 g, 40% | C(C)(=O)C=1C=C(C2=C(SCCCO2)C1)C(=O)N | C12H13NO3S
